US04304788
Sodium hydride (0.8 g., 80% w/w dispersion in mineral oil) was added to a stirred solution of 2-[4-(4-chlorophenyl)phenyl]-ethanol (5.0 g.) in dimethylformamide (20 ml.). The mixture was stirred at room temperature under nitrogen for 5 hours. Ethyl 2-bromopropionate (3 ml.) was then added and the mixture was stirred at room temperature. After 18 hours the mixture was partitioned between ethyl acetate (100 ml.) and 4-N-hydrochloric acid (100 ml.). The organic phase was separated, washed with water (30 ml.), and evaporated to give ethyl 2-{2-[4-(4-chlorophenyl)phenyl]ethoxy}propionate as an oil (7.0 g.).

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | 2-[4-(4-chlorophenyl)phenyl]-ethanol | 5.0 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CCO | C14H13ClO
reactant | Ethyl 2-bromopropionate | 3 ml | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-{2-[4-(4-chlorophenyl)phenyl]ethoxy}propionate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CCOC(C(=O)OCC)C | C19H21ClO3
